US03973022
A solution of 2.5 g of crude 2-phenyl-6-quinolineacetaldehyde in 3 ml of ethanol is slowly added dropwise at room temperature to a suspension of 3.4 g of silver nitrate and 1.6 g of sodium hydroxide in 12 ml of water. After completion of the addition, the mixture is stirred for a further 3 hours. Thereafter the suspension is clarified by filtration and the filtrate is washed with ether and adjusted to a pH of 6. The emulsion thereby produced is extracted with ethyl acetate. The ethyl acetate extracts, after drying, evaporation and recrystallisation of the residue from methanol-pentane, yield 2-phenyl-6-quinolineacetic acid of melting point 176°-179°C.

reactant | 2-phenyl-6-quinolineacetaldehyde | 2.5 g | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C=C1)CC=O | C17H13NO
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | 12 ml | O | H2O
catalyst | silver nitrate | 3.4 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-phenyl-6-quinolineacetic acid | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C=C1)CC(=O)O | C17H13NO2
